US06133303
6-(2-Imidazole-1-yl-ethoxy)-2-(5-methylsulfanyl-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one
According to the method of Example 4, 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.25 g, 0.98 mmol) was reacted with 5-(methylthio)thiophene-2-carboxaldehyde (0.233 g, 1.47 mmol) in 4 mL of 4% KOH in EtOH for 2 hours at room temperature to afford 0.293 g (36%) of the title compound as a dark yellow powder, mp 102-104° C.: APCI-MS m/e 397.5 (M+ +1).

reactant | 6-(2-imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 0.98 mmol, 0.25 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 5-(methylthio)thiophene-2-carboxaldehyde | 1.47 mmol, 0.233 g | CSC1=CC=C(S1)C=O | C6H6OS2
solvent | KOH | 4 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
product | 6-(2-Imidazole-1-yl-ethoxy)-2-(5-methylsulfanyl-thiophen-2-ylmethylene)-3,4-dihydro-2H-naphthalen-1-one | 0.293 g, 36% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC=1SC(=CC1)SC | C21H20N2O2S2
